US05624935
5-{4-(6-Chloro-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 0.52 g of 6-chloro-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine (prepared as described in Preparation 64), 1.23 g of 5-(4-hydroxybenzyl) -3-triphenylmethylthiazolidine-2,4-dione, 0.66 ml of tributylphosphine, 0.67 g of 1,1'-(azodicarbonyl)dipiperidine and 20 ml of toluene were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.51 g of the title compound, melting at 82°-84° C. (softening).

reactant | 6-chloro-2-hydroxymethyl-3-methyl-3H-imidazo[4,5-b]pyridine | 0.52 g | ClC=1C=C2C(=NC1)N(C(=N2)CO)C | C8H8ClN3O
reactant | 5-(4-hydroxybenzyl) -3-triphenylmethylthiazolidine-2,4-dione | 1.23 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 0.66 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 0.67 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{4-(6-Chloro-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}-3-triphenylmethylthiazolidine-2,4-dione | ClC=1C=C2C(=NC1)N(C(=N2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2)C | C37H29ClN4O3S
